US07932393B2
Under a dry nitrogen atmosphere, a mixture of 8.0 grams (0.041 mole) of 2-[(4methoxyphenyl)-methylthio]ethylamine (known compound), 5.7 grams (0.041 mole) of 6-chloropyridine-3-carbaldehyde and 9.7 grams (0.081 mole) of magnesium sulfate in 160 mL of 1,2-dichloroethane was stirred at ambient temperature for about five hours. Sodium triacetoxyborohydride (12.9 grams, 0.061 mole) was added and the reaction mixture stirred at ambient temperature for about 18 hours. After this time 200 mL of an aqueous 5% sodium carbonate solution was added and the mixture stirred for two hours. The mixture was filtered and the filter cake rinsed with methylene chloride. The filtrate and rinse were combined and extracted with three portions of methylene chloride. The combined extracts were dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a yellow oil. The oil was subjected to several column chromatography purifications on silica gel, combining the appropriate fractions and concentrating prior to the next purification, eluting with mixtures of methylene chloride and methanol. The third chromatography purification provided 9.39 grams of [(6-chloro(3-pyridyl))methyl]{2-[(4-methoxyphenyl)methylthio]ethyl}amine as an oil. The NMR spectrum was consistent with the proposed structure.

reactant | 2-[(4methoxyphenyl)-methylthio]ethylamine | 0.041 mole, 8.0 grams | COC1=CC=C(C=C1)CSCCN | C10H15NOS
reactant | 6-chloropyridine-3-carbaldehyde | 0.041 mole, 5.7 grams | ClC1=CC=C(C=N1)C=O | C6H4ClNO
reactant | magnesium sulfate | 0.081 mole, 9.7 grams | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Sodium triacetoxyborohydride | 0.061 mole, 12.9 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 160 mL | ClCCCl | C2H4Cl2
product | [(6-chloro(3-pyridyl))methyl]{2-[(4-methoxyphenyl)methylthio]ethyl}amine | 9.39 grams | ClC1=CC=C(C=N1)CNCCSCC1=CC=C(C=C1)OC | C16H19ClN2OS
